US08633319B2
Intermediate 8: 1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate
To 5,7-dichloro-1,6-naphthyridine (5.01 g, 25.2 mmol) and 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate (5.32 g, 22.90 mmol) in NMP (20 ml) was added DIPEA (8.00 ml, 45.8 mmol) and the mixture was stirred at 100° C. for 72 h under nitrogen. The reaction was cooled and partitioned between ethyl acetate and water (200 ml each). The aqueous was washed with ethyl acetate. The combined organics were washed with water and the solvent was removed. The residue was dissolved in DCM and loaded onto a 100 g silica SNAP column and purified on the SP4 eluting with 0-50% ethyl acetate in cyclohexane over 17 CVs. Appropriate fractions were combined and the solvent was removed to give the title compound as a pale orange solid which was dried under high vacuum for 2 h (7.61 g).

reactant | 5,7-dichloro-1,6-naphthyridine | 25.2 mmol, 5.01 g | ClC1=C2C=CC=NC2=CC(=N1)Cl | C8H4Cl2N2
reactant | 1,1-dimethylethyl (3R)-3-(aminomethyl)-3-fluoro-1-piperidinecarboxylate | 22.90 mmol, 5.32 g | NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C11H21FN2O2
reactant | DIPEA | 45.8 mmol, 8.00 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | 1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
